US08664401B2
Step C) Ethyl 2-ethyl-2-(methylsulfonyl)-4-(2-oxo-4-phenylpyridin-1(2H)-yl)butanoate
Cesium carbonate (0.71 g, 2.2 mmol, 4.0 equiv) was added to a solution of the 4-phenylpyridin-2-ol (0.10 g, 0.58 mmol, 1.05 equiv) and ethyl 4-bromo-2-ethyl-2-(methylsulfonyl)butanoate (0.17 g, 0.55 mmol, 1.0 equiv) in tetrahydrofuran (5 mL). The resulting mixture was heated to 55° C. and allowed to stir for 3 days. The reaction was diluted with ethyl acetate (20 mL), filtered through a pad of Celite, and concentrated under reduced pressure. The crude material was purified by flash chromatography on silica gel (4:1-0:1 heptane/ethyl acetate) to provide a light yellow oil (43 mg, 20%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.15 (t, J=7.42 Hz, 3H) 1.33 (t, J=7.13 Hz, 3H) 2.07-2.19 (m, 1H) 2.26-2.36 (m, 1H) 2.44 (ddd, J=14.89, 11.18, 4.98 Hz, 1H) 2.59-2.71 (m, 1H) 3.15 (s, 3H) 4.19-4.37 (m, 4H) 6.45 (dd, J=7.03, 1.56 Hz, 1H) 6.72-6.78 (m, 1H) 7.38-7.48 (m, 4H) 7.53-7.60 (m, 2H).

reactant | Cesium carbonate | 2.2 mmol, 0.71 g, 4.0 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-phenylpyridin-2-ol | 0.58 mmol, 0.10 g, 1.05 equiv | C1(=CC=CC=C1)C1=CC(=NC=C1)O | C11H9NO
reactant | ethyl 4-bromo-2-ethyl-2-(methylsulfonyl)butanoate | 0.55 mmol, 0.17 g, 1.0 equiv | BrCCC(C(=O)OCC)(S(=O)(=O)C)CC | C9H17BrO4S
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-ethyl-2-(methylsulfonyl)-4-(2-oxo-4-phenylpyridin-1(2H)-yl)butanoate | 43 mg, 20% | C(C)C(C(=O)OCC)(CCN1C(C=C(C=C1)C1=CC=CC=C1)=O)S(=O)(=O)C | C20H25NO5S
